US06087380
2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(hydroxycarbonylmethyl)-amide-hydrochloride
Prepared analogously to Example 10 from 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 75% of theory, C24H21N5O3S (459.53) Rf value: 0.14 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) ##EQU4##

reactant | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(hydroxycarbonylmethyl)-amide-hydrochloride | Yield: 75% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CC(=O)O | InChI=1S/C24H21N5O3S.ClH/c25-23(26)15-6-9-17(10-7-15)27-13-21-28-19-12-16(8-11-20(19)33-21)24(32)29(14-22(30)31)18-4-2-1-3-5-18;/h1-12,27H,13-14H2,(H3,25,26)(H,30,31);1H
